US04842638
(c) 3-Propionyl-5-(tetrahydrothiopyran-3-yl)-tetrahydropyran-2,4-dione
2.4 g of triethylamine is added to 5 g of 5-(tetrahydrothiopyran-3-yl)-tetrahydropyran-2,4-dione in 50 ml of anhydrous tetrahydrofuran. At 0° C., 2.2 g of propionyl chloride is dripped in and the mixture is stirred for 12 hours at room temperature. The mixture is then diluted with 150 ml of water, and the aqueous phase is separated and extracted with 100 ml of ether. The combined organic phases are washed once with ice-cold 5% strength hydrochloric acid and once with water, and dried with magnesium sulfate, and the solvent is removed. The oily residue is dissolved in 50 ml of anhydrous toluene, 0.3 g of 3-dimethylaminopyridine is added, and the mixture is stirred at 80° C. for 2 hours. After cooling, extraction is carried out twice with 25 ml of hydrochloric acid and twice with 25 ml of water. The organic phase is dried over sodium sulfate and concentrated in a rotary evaportor. The residue is chromatographed with methylene chloride on silica gel. There is obtained 1.8 g of the desired compound.

reactant | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
reactant | 5-(tetrahydrothiopyran-3-yl)-tetrahydropyran-2,4-dione | 5 g | S1CC(CCC1)C1C(CC(OC1)=O)=O | C10H14O3S
reactant | propionyl chloride | 2.2 g | C(CC)(=O)Cl | C3H5ClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | 3-Propionyl-5-(tetrahydrothiopyran-3-yl)-tetrahydropyran-2,4-dione | 1.8 g | C(CC)(=O)C1C(OCC(C1=O)C1CSCCC1)=O | C13H18O4S
